US07989462B2
(4-Dimethylamino-phenyl)-(2-methyl-quinazolin-4-yl)-amine
The title compound was prepared from 4-chloro-2-methyl-quinazoline (178.6 mg, 1.0 mmol), 4-dimethylamino-aniline (136.2 mg, 1.0 mmol) and sodium acetate (98.4 mg, 1.2 mmol) similar to example 20 to give 222 mg (79.9%) of gray solids. 1H NMR (CDCl3): 7.82-7.70 (m, 3H), 7.62 (d, J=9.0 Hz, 2H), 7.45 (t, J=7.5 Hz, 1H), 6.80 (d, J=9.0 Hz, 2H), 2.97 (s, 6H), 2.66 (s, 3H).

reactant | 4-chloro-2-methyl-quinazoline | 1.0 mmol, 178.6 mg | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | 4-dimethylamino-aniline | 1.0 mmol, 136.2 mg | CN(C1=CC=C(N)C=C1)C | C8H12N2
reactant | sodium acetate | 1.2 mmol, 98.4 mg | C(C)(=O)[O-].[Na+]
product | (4-Dimethylamino-phenyl)-(2-methyl-quinazolin-4-yl)-amine | CN(C1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C)C | C17H18N4
